US05120738
Preparation of 3-(N-Tetradecanoylamino)propyl 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionate
N-(3-Hydroxypropyl)tetradecanamide (2.87 g) and 2.59 g of 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid were reacted in the same manner as in Example 15 to obtain 4.63 g of the title compound (yield: 88%)

reactant | N-(3-Hydroxypropyl)tetradecanamide | 2.87 g | OCCCNC(CCCCCCCCCCCCC)=O | C17H35NO2
reactant | 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid | 2.59 g | CC1(OCC(C(O1)C(=O)NCCC(=O)O)(C)C)C | C12H21NO5
product | 3-(N-Tetradecanoylamino)propyl 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionate | 4.63 g, yield: 88% | CC1(OCC(C(O1)C(=O)NCCC(=O)OCCCNC(CCCCCCCCCCCCC)=O)(C)C)C | C29H54N2O6
